US07947738B2
(13-j) (±)-[(1S,5R,6R)-6-aminomethyl-3-sec-butylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid
Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-sec-butylbicyclo[3.2.0]hept-3-en-6-yl]acetate (2.26 g, 7.7 mmol) was dissolved in a 4 N hydrochloric acid-ethyl acetate solution (30 mL), and the solution was stirred at room temperature for 2 hours. Then, the solvent was distilled off under reduced pressure. The residue was suspended by the addition of dichloromethane. To the suspension, triethylamine was then added dropwise, and the resulting powder was collected by filtration. The obtained powder was washed with dichloromethane to obtain the compound of interest as a white powder (0.98 g, 54%).

reactant | Tert-butyl(±)-[(1S,5R,6R)-6-aminomethyl-3-sec-butylbicyclo[3.2.0]hept-3-en-6-yl]acetate | 7.7 mmol, 2.26 g | NC[C@@]1([C@H]2C=C(C[C@H]2C1)C(C)CC)CC(=O)OC(C)(C)C | C18H31NO2
solvent | hydrochloric acid ethyl acetate | 4 N, 30 mL | Cl.C(C)(=O)OCC
product | (±)-[(1S,5R,6R)-6-aminomethyl-3-sec-butylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | 0.98 g, 54% | NC[C@@]1([C@H]2C=C(C[C@H]2C1)C(C)CC)CC(=O)O | C14H23NO2
